US06291475B1
(a) 4-(2-Chloromethylallyloxy)benzonitrile
A solution of 4-cyanophenol (11.9 g; 0.1 mol) in 1,2-dimethoxyethane (100 mL) was slowly added to a stirred and cooled (0° C.) suspension of NaH (4.0 g; 0.1 mol; 55% dispersion) in 1,2-dimethoxyethane (250 mL). The reaction mixture was refluxed for 1 hour and then allowed to cool to room temperature. 3-Chloro-2-chloromethyl-propene (20 g; 0.16 mol) was added in one portion and the reaction mixture was stirred at 45° C. for 40 hours. The reaction mixture was partitioned between DCM and NaHCO3 (satd.) and the organic layer collected, dried, concentrated and purified using column chromatography (DCM:MeOH; 50:1) to give the sub-title ompound in a 66% yield.

reactant | 4-cyanophenol | 0.1 mol, 11.9 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | NaH | 0.1 mol, 4.0 g | [H-].[Na+]
reactant | 3-Chloro-2-chloromethyl-propene | 0.16 mol, 20 g | ClCC(=C)CCl | C4H6Cl2
solvent | 1,2-dimethoxyethane | 100 mL | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 250 mL | COCCOC | C4H10O2
product | 4-(2-Chloromethylallyloxy)benzonitrile | 66% yield | ClCC(COC1=CC=C(C#N)C=C1)=C | C11H10ClNO
